US05124332
Step (f): Preparation of Trans 3-[4-[2-[4-(2-pyridinyl)-1-piperazinyl]ethyl]cyclohexyl]-1H-indole
A slurry of lithium aluminum hydride (0.472 g, 12.4 mmol) in 20 mL of tetrahydrofuran at 0° C. is treated with aluminum chloride (0.553 g, 4.15 mmol) and the mixture is stirred for 20 minutes. A slurry of trans 1-(2-{4-[1H-3-indolyl]-cyclohexyl}acetyl)-4-(2-pyridinyl)piperazine (1.67 g, 4.15 mmol) in 20 mL of tetrahydrofuran is added and the reaction is stirred at ambient temperature for 18 hours. Water (1 mL) and 10% sodium hydroxide solution (2 mL) is added the mixture is stirred for 2 hours, then filtered through celite and the volatiles are removed under reduced pressure. The resulting oil is triturated with diethyl ether to give the product as a white solid (1.57 g); mp 147°-148° C.

reactant | lithium aluminum hydride | 12.4 mmol, 0.472 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 4.15 mmol, 0.553 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trans 1-(2-{4-[1H-3-indolyl]-cyclohexyl}acetyl)-4-(2-pyridinyl)piperazine | 4.15 mmol, 1.67 g | N1C=C(C2=CC=CC=C12)[C@@H]1CC[C@H](CC1)CC(=O)N1CCN(CC1)C1=NC=CC=C1 | C25H30N4O
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | 1 mL | O | H2O
product | Trans 3-[4-[2-[4-(2-pyridinyl)-1-piperazinyl]ethyl]cyclohexyl]-1H-indole | 1.57 g | N1=C(C=CC=C1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)C1=CNC2=CC=CC=C12 | C25H32N4
